2150-10-15 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Had EEG
 result pending
          Had MRI
          Dialyzed w/ marginal improvement of mental status
          Seen by Neurology who suggested MRI/LP if no improvement
          BP brought down to 116/52 while sleeping.
   Allergies:
   Sevoflurane
   PEA arrest ;
   [**Location (un) **] Juice
   Unknown;
   Antibiotics:
   None
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-10-14**] 11:03 AM
   Hydralazine - [**2150-10-14**] 12:00 PM
   Pantoprazole (Protonix) - [**2150-10-15**] 12:00 AM
   Dilantin - [**2150-10-15**] 12:00 AM
   Lorazepam (Ativan) - [**2150-10-15**] 01:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2150-10-15**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 70 (68 - 84) bpm
   BP: 123/54(71) {103/44(62) - 208/90(120)} mmHg
   RR: 21 (0 - 66) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    188 mL
                                                                     64 mL
   PO:
             TF:
   IVF:
                                                                    188 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/53/119/31/9
   Physical Examination
   Gen: chronically ill appearing middle aged male intermittently agitated
   and screaming and somnolent and responsive only to very noxious
   stimuli.
   HEENT: No scleral icterus. L pupil difficult to see due to cataract. R
   pupil not reactive to light.
   NECK: Supple, No LADL IJ CVL in place.
   CV: RRR. nl S1, S2. No appreciable murmur.
   LUNGS: CTA anteriorly, no wheezing.
   ABD: Soft, nontender to palpation, no guarding or rebound. normoactive
   bowel sounds.
   EXT: 2+ DP pulses bilaterally, extremities cool. 2+ radial pulses
   bilaterally. No peripheral edema.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intermittently somnolent but also with episodes of spontaneous
   alertness with eyes open. No response to voice. Not responding to
   questions. L pupil difficult to assess [**12-20**] cataract, R pupil
   nonreactive.  Moves all 4 extremities.  Some slight withdrawal from
   pain in bilateral lower extremities and upper extremities. No
   meningismus.
   Labs / Radiology
   189 K/uL
   12.0 g/dL
   123 mg/dL
   5.1 mg/dL
   31 mEq/L
   3.4 mEq/L
   11 mg/dL
   97 mEq/L
   142 mEq/L
   35.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2150-10-14**]  11:35 AM
                            [**2150-10-14**]  02:49 PM
                            [**2150-10-14**]  05:19 PM
                            [**2150-10-14**]  08:33 PM
                            [**2150-10-15**]  04:00 AM
   WBC
   8.0
   10.1
   7.3
   Hct
   37.0
   36.5
   37.6
   35.4
   Plt
   [**Telephone/Fax (3) 6726**]
   Cr
   7.7
   4.3
   5.1
   TropT
   0.23
   0.24
   TCO2
   36
   Glucose
   91
   124
   123
   Other labs:
   PT / PTT / INR:17.2/32.5/1.6
   Differential-Neuts:79.5 %, Lymph:9.6 %, Mono:5.4 %, Eos:4.8 %
   Albumin:3.6 g/dL, LDH:257 IU/L
   Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   BCx: coag negative staph [**10-12**]. BCx [**10-13**], [**10-14**], [**10-15**] pending.
   Assessment and Plan
   This is a 46 y/o man with ESRD on HD, type I DM, CAD s/p recent NSTEMI,
   and Hx of anoxic encephalopathy post PEA arrest admitted with chest
   pain, hypertension, and hematemesis now transferred from the floor with
   altered mental status and hypoxia associated with apnea.
   # Altered mental status: Unclear etiology at this point.  Patient with
   improvement in mental status after given narcan on the floor and narcan
   gtt in the CCU but unclear if this was coincidental as patient had no
   change when drip was d/c. Given his multitude of other problems (prior
   PEA arrest with anoxic brain injury, ESRD, h/o seizure disorder, and
   recent sleep deprivation), his altered mental status is likely
   multifactorial in etiology. He appears to have [**Last Name (un) 1464**]-[**Doctor Last Name 1465**]
   respirations at present which could be secondary to prior anoxic brain
   injury though he is clearly off of his baseline according to residents
   who have seen him in clinic recently (since NSTEMI and PEA arrest).
   Other consideration is hypertensive encephalopathy/PRES given BPs
   200s/90s but BP has been elevated since admission. The patient's CO2 on
   ABG was elevated at 60 with ph 7.32 but patient has had elevated CO2 on
   ABGS for past year. Likely that elevation in Co2 is [**12-20**] altered mental
   status but certainly could represent an element of CO2 narcosis.  MRI
   w/prelim read of abnormality in the white matter diffusely and
   calcifications in the L globe but negative for PRES, temporal lobe
   enhancement, or CVA.  Re-loading with Dilantin currently per neuron
   recommendation.  Neuro note mentions EEG findings but unclear whether
   these are current EEG or previous EEG results.  Final head CT read is
   NAD.  Serum tox screen negative.
   - f/u neurology recs
   - LP today
   - continue Dilantin load per neur rec, will check with neurology
   regarding when to check levels, what dose to use for maintenance.
   - serum tox added on to this AM's labs negative
   - if apnea continues consider noninvasive ventilation versus intubation
   - treat hypertension to goal BP today 160 systolic --> IV hydral &
   lopressor for now (did not require hydral o/n)
   .
   # Hypertension: BPs elevated to 200s/100s on arrival to the ICU. BPs
   - d/c hydralazine 10 mg IV q6h PRN (not used)
   - continue IV lopressor 10 mg IV q8h (to substitute for PO lopressor)
   - goal SBP 160s
   - HD later tomorrow
   - resume losartan and convert back to metoprolol PO when taking POs
   .
   # Positive blood culture: Patient with one positive blood culture, gram
   positive cocci in clusters, from [**10-12**] (prior to CVL placement).
   Received one dose of vancomycin yesterday and will be dialyzed today.
   Likely contaminate as no other BCx have come back positive, patient is
   afebrile.
   -          d/c vanco
   -          follow BCx
   .
   # Hematemesis: Patient presented with hematemesis with reportedly
   positive NG lavage. Was planned for EGD today but given current
   unstable situation, will hold off and discuss with GI for later this
   week.
   - appreciate GI recs
   - continue [**Hospital1 **] PPI
   - maintain active T&S, new T&S ordered for AM of [**10-15**]
   - [**Hospital1 **] Hct (next this PM)
   .
   # Chest pain with recent NSTEMI: Patient now not reporting chest pain
   but not responding appropriately to questions. Has had negative CKs
   during this admission with slightly elevated troponin (near recent
   baseline).  CE w/mildly elevated troponins, but at baseline for
   patient, likely due to CKD.  EKG w/non-specific changes. Should
   continue to consider cardiac etiology as patient has had reported
   episodes of NSTEMI with change in mental status in past.
   - continue to monitor symptoms
   - holding aspirin given GI bleeding
   - continue beta blockade as able (IV while not taking POs)
   .
   # ESRD on HD: Renal team is following.
   - HD tomorrow in CCU
   - reinitiate sevelamer, nephrocaps when able to take POs
   - watch lytes closely
   .
   # Type I DM: Continue lantus with sliding scale humalog. Continue four
   times daily fingersticks.
   - hold reglan for gastroparesis for now
   .
   # Hiccups: No hiccups apparent currently. No further baclofen given ?
   of sedation and ? lowering seizure threshold.
   .
   # h/o seizures: Patient has had seizures in the past. On dilantin but
   recently subtherapeutic.
   - EEG today as above
   - hold baclofen
   - Neurology following
   - Dilantin as above
    .
   # FEN: NPO for now until mental status improves, lyte management per HD
   # PPx: PPI [**Hospital1 **], pneumoboots, no heparin given GI bleeding, will resume
   bowel meds when taking POs
   .
   # ACCESS: L IJ CVL (placed [**10-13**] at [**Hospital1 54**]), R AV fistula
   .
   # CODE: presumed full (documented in H&P)
   .
   # COMM: With patient and sister [**Name (NI) 3472**] ([**Name2 (NI) 3472**] is in [**Name (NI) 2222**] per
   the patient's cousin), hence ICU consent not signed yet
   .
   # DISP: ICU care for now until more alert, less apnea
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-10-14**] 10:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-10-15 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo man with DM I, ESRD on HD, admitted with HTN and GIB, c/b altered
   MS and code blue with HTN, apnea.
   24 Hour Events:
 MULTI LUMEN - START [**2150-10-14**] 10:27 AM
 BLOOD CULTURED - At [**2150-10-14**] 12:00 PM
   from central line
 EEG - At [**2150-10-14**] 12:35 PM
 MAGNETIC RESONANCE IMAGING - At [**2150-10-15**] 12:45 AM
   Allergies:
   Sevoflurane
   PEA arrest ;
   [**Location (un) **] Juice
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2150-10-14**] 12:00 PM
   Lorazepam (Ativan) - [**2150-10-15**] 01:05 AM
   Dilantin - [**2150-10-15**] 06:00 AM
   Pantoprazole (Protonix) - [**2150-10-15**] 11:00 AM
   Other medications:
   glargine
   protonix
   lopressor
   vanco
   phenytoin
   Changes to medical and family history:
   More awake, but crying, agitated, not following commands
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-10-15**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 86 (68 - 92) bpm
   BP: 173/66(93) {103/40(62) - 186/79(109)} mmHg
   RR: 48 (0 - 66) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    188 mL
                                                                     28 mL
   PO:
             TF:
   IVF:
                                                                    188 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,013 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.43/53/119/31/9
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not following commands, but crying saying that he is
   screaming.
   Labs / Radiology
   12.0 g/dL
   189 K/uL
   123 mg/dL
   5.1 mg/dL
   31 mEq/L
   3.4 mEq/L
   11 mg/dL
   97 mEq/L
   142 mEq/L
   35.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2150-10-14**]  11:35 AM
                            [**2150-10-14**]  02:49 PM
                            [**2150-10-14**]  05:19 PM
                            [**2150-10-14**]  08:33 PM
                            [**2150-10-15**]  04:00 AM
   WBC
   8.0
   10.1
   7.3
   Hct
   37.0
   36.5
   37.6
   35.4
   Plt
   [**Telephone/Fax (3) 6726**]
   Cr
   7.7
   4.3
   5.1
   TropT
   0.23
   0.24
   TCO2
   36
   Glucose
   91
   124
   123
   Other labs: PT / PTT / INR:17.2/32.5/1.6, CK / CKMB /
   Troponin-T:71/5/0.24, ALT / AST:29/18, Alk Phos / T Bili:291/0.4,
   Differential-Neuts:79.5 %, Lymph:9.6 %, Mono:5.4 %, Eos:4.8 %,
   Albumin:3.6 g/dL, LDH:257 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): HD yesterday
 HEMATEMESIS (UPPER GI BLEED, UGIB):  Hct has been stable.
 ALTERED MENTAL STATUS/Delirium:  More awake and crying and voicing
   words, but not interactive.  Follow up MRI results.   Will perform LP.
 CHEST PAIN:  Troponins at baseline.    Likely was from esophagitis.
   HTN:  on IV lopressor and Hydral to titrate SBP to about 160.
   Coag negative staph positive blood culture:  Probable contaminant, will
   hold vanco for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-10-14**] 10:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2150-10-16 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2150-10-15**] 02:18 PM
 CSF CULTURE - At [**2150-10-15**] 02:21 PM
     * Patient intermittently very agitated and screaming and somnolent
       and poorly responsive
     * LP performed. WBC, RBC negative, Protein and Glucose slightly
       elevated. Gram stain negative.
     * MRI prelim report showed some diffuse white matter changes (that
       could be c/w HIV disease but pt w/neg HIV in computer from [**11-25**])
       and calcifications in the left globe (could be c/w CMV). No
       evidence of PRES, temporal lobe changes, or CVA.
     * D/c vanco b/c afebrile and no more cultures turned positive
     * HCt stable
     * corrected phenytoin level therapeutic so started back on
       100/100/200 dosing regimen.
     * to calculate corrected phenytoin level: measured/[(albumin
       x0.1)+0.1]
   Allergies:
   Sevoflurane
   PEA arrest ;
   [**Location (un) **] Juice
   Unknown;
   Antibiotics:
   None
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-10-15**] 11:00 AM
   Dilantin - [**2150-10-15**] 06:42 PM
   Metoprolol - [**2150-10-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-10-16**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 75 (69 - 92) bpm
   BP: 185/76(104) {132/40(73) - 185/99(114)} mmHg
   RR: 51 (8 - 74) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.3 kg (admission): 60.9 kg
                  Total In:
                                                                     28 mL
                  PO:
                  TF:
   IVF:
                                                                     28 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Gen: chronically ill appearing middle aged male intermittently agitated
   and screaming and somnolent and responsive only to very noxious
   stimuli.
   HEENT: No scleral icterus. L pupil difficult to see due to cataract. R
   pupil not reactive to light.
   NECK: Supple, No LADL IJ CVL in place.
   CV: RRR. nl S1, S2. No appreciable murmur.
   LUNGS: CTA anteriorly, no wheezing.
   ABD: Soft, nontender to palpation, no guarding or rebound. normoactive
   bowel sounds.
   EXT: 2+ DP pulses bilaterally, extremities cool. 2+ radial pulses
   bilaterally. No peripheral edema.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intermittently somnolent but also with episodes of spontaneous
   alertness with eyes open. No response to voice. Not responding to
   questions. L pupil difficult to assess [**12-20**] cataract, R pupil
   nonreactive.  Moves all 4 extremities.  Some slight withdrawal from
   pain in bilateral lower extremities and upper extremities. No
   meningismus.
   Labs / Radiology
   198 K/uL
   12.0 g/dL
   99 mg/dL
   7.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   148 mEq/L
   35.9 %
   7.4 K/uL
        [image002.jpg]
                            [**2150-10-14**]  11:35 AM
                            [**2150-10-14**]  02:49 PM
                            [**2150-10-14**]  05:19 PM
                            [**2150-10-14**]  08:33 PM
                            [**2150-10-15**]  04:00 AM
                            [**2150-10-15**]  03:39 PM
                            [**2150-10-16**]  04:03 AM
   WBC
   8.0
   10.1
   7.3
   7.4
   Hct
   37.0
   36.5
   37.6
   35.4
   35.9
   35.9
   Plt
   [**Telephone/Fax (3) 6742**]98
   Cr
   7.7
   4.3
   5.1
   7.7
   TropT
   0.23
   0.24
   TCO2
   36
   Glucose
   91
   124
   123
   99
   Other labs: PT / PTT / INR:19.4/33.2/1.8, CK / CKMB /
   Troponin-T:71/5/0.24, ALT / AST:29/18, Alk Phos / T Bili:291/0.4,
   Differential-Neuts:79.5 %, Lymph:9.6 %, Mono:5.4 %, Eos:4.8 %,
   Albumin:3.6 g/dL, LDH:257 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   This is a 46 y/o man with ESRD on HD, type I DM, CAD s/p recent NSTEMI,
   and Hx of anoxic encephalopathy post PEA arrest admitted with chest
   pain, hypertension, and hematemesis now transferred from the floor with
   altered mental status and hypoxia associated with apnea.
   # Altered mental status: Unclear etiology at this point.  Patient with
   improvement in mental status after given narcan on the floor and narcan
   gtt in the CCU but unclear if this was coincidental as patient had no
   change when drip was d/c. Given his multitude of other problems (prior
   PEA arrest with anoxic brain injury, ESRD, h/o seizure disorder, and
   recent sleep deprivation), his altered mental status is likely
   multifactorial in etiology. He appears to have [**Last Name (un) 1464**]-[**Doctor Last Name 1465**]
   respirations at present which could be secondary to prior anoxic brain
   injury though he is clearly off of his baseline according to residents
   who have seen him in clinic recently (since NSTEMI and PEA arrest).
   Other consideration is hypertensive encephalopathy/PRES given BPs
   200s/90s but BP has been elevated since admission. The patient's CO2 on
   ABG was elevated at 60 with ph 7.32 but patient has had elevated CO2 on
   ABGS for past year. Likely that elevation in Co2 is [**12-20**] altered mental
   status but certainly could represent an element of CO2 narcosis.  MRI
   w/prelim read of abnormality in the white matter diffusely and
   calcifications in the L globe but negative for PRES, temporal lobe
   enhancement, or CVA.  Re-loading with Dilantin currently per neuron
   recommendation.  Neuro note mentions EEG findings but unclear whether
   these are current EEG or previous EEG results.  Final head CT read is
   NAD.  Serum tox screen negative.
   - f/u neurology recs
   - LP today
   - continue Dilantin load per neur rec, will check with neurology
   regarding when to check levels, what dose to use for maintenance.
   - serum tox added on to this AM's labs negative
   - if apnea continues consider noninvasive ventilation versus intubation
   - treat hypertension to goal BP today 160 systolic --> IV hydral &
   lopressor for now (did not require hydral o/n)
   .
   # Hypertension: BPs elevated to 200s/100s on arrival to the ICU. BPs
   - d/c hydralazine 10 mg IV q6h PRN (not used)
   - continue IV lopressor 10 mg IV q8h (to substitute for PO lopressor)
   - goal SBP 160s
   - HD later tomorrow
   - resume losartan and convert back to metoprolol PO when taking POs
   .
   # Positive blood culture: Patient with one positive blood culture, gram
   positive cocci in clusters, from [**10-12**] (prior to CVL placement).
   Received one dose of vancomycin yesterday and will be dialyzed today.
   Likely contaminate as no other BCx have come back positive, patient is
   afebrile.
   -          d/c vanco
   -          follow BCx
   .
   # Hematemesis: Patient presented with hematemesis with reportedly
   positive NG lavage. Was planned for EGD today but given current
   unstable situation, will hold off and discuss with GI for later this
   week.
   - appreciate GI recs
   - continue [**Hospital1 **] PPI
   - maintain active T&S, new T&S ordered for AM of [**10-15**]
   - [**Hospital1 **] Hct (next this PM)
   .
   # Chest pain with recent NSTEMI: Patient now not reporting chest pain
   but not responding appropriately to questions. Has had negative CKs
   during this admission with slightly elevated troponin (near recent
   baseline).  CE w/mildly elevated troponins, but at baseline for
   patient, likely due to CKD.  EKG w/non-specific changes. Should
   continue to consider cardiac etiology as patient has had reported
   episodes of NSTEMI with change in mental status in past.
   - continue to monitor symptoms
   - holding aspirin given GI bleeding
   - continue beta blockade as able (IV while not taking POs)
   .
   # ESRD on HD: Renal team is following.
   - HD tomorrow in CCU
   - reinitiate sevelamer, nephrocaps when able to take POs
   - watch lytes closely
   .
   # Type I DM: Continue lantus with sliding scale humalog. Continue four
   times daily fingersticks.
   - hold reglan for gastroparesis for now
   .
   # Hiccups: No hiccups apparent currently. No further baclofen given ?
   of sedation and ? lowering seizure threshold.
   .
   # h/o seizures: Patient has had seizures in the past. On dilantin but
   recently subtherapeutic.
   - EEG today as above
   - hold baclofen
   - Neurology following
   - Dilantin as above
    .
   # FEN: NPO for now until mental status improves, lyte management per HD
   # PPx: PPI [**Hospital1 **], pneumoboots, no heparin given GI bleeding, will resume
   bowel meds when taking POs
   .
   # ACCESS: L IJ CVL (placed [**10-13**] at [**Hospital1 54**]), R AV fistula
   .
   # CODE: presumed full (documented in H&P)
   .
   # COMM: With patient and sister [**Name (NI) 3472**] ([**Name2 (NI) 3472**] is in [**Name (NI) 2222**] per
   the patient's cousin), hence ICU consent not signed yet
   .
   # DISP: ICU care for now until more alert, less apnea
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-10-14**] 10:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-10-16 11:37:00 Physician Attending Progress Note
Chief Complaint: poor MS, apneic episodes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo DM I, had ?respiratory code on floor, suddent unresponsive.  By
   report now much more awake and interactive.  MRI and CSF fluid results
   not specific.
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2150-10-15**] 02:18 PM
 CSF CULTURE - At [**2150-10-15**] 02:21 PM
   Allergies:
   Sevoflurane
   PEA arrest ;
   [**Location (un) **] Juice
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2150-10-15**] 06:42 PM
   Metoprolol - [**2150-10-16**] 04:00 AM
   Other medications:
   protonix
   insulin
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Flowsheet Data as of  [**2150-10-16**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 75 (70 - 85) bpm
   BP: 150/76(94) {137/51(76) - 185/99(114)} mmHg
   RR: 22 (11 - 74) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.3 kg (admission): 60.9 kg
                  Total In:
                                                                     28 mL
                  PO:
                  TF:
   IVF:
                                                                     28 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): person, place, knows year, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   198 K/uL
   99 mg/dL
   7.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   148 mEq/L
   35.9 %
   7.4 K/uL
        [image002.jpg]
                            [**2150-10-14**]  11:35 AM
                            [**2150-10-14**]  02:49 PM
                            [**2150-10-14**]  05:19 PM
                            [**2150-10-14**]  08:33 PM
                            [**2150-10-15**]  04:00 AM
                            [**2150-10-15**]  03:39 PM
                            [**2150-10-16**]  04:03 AM
   WBC
   8.0
   10.1
   7.3
   7.4
   Hct
   37.0
   36.5
   37.6
   35.4
   35.9
   35.9
   Plt
   [**Telephone/Fax (3) 6742**]98
   Cr
   7.7
   4.3
   5.1
   7.7
   TropT
   0.23
   0.24
   TCO2
   36
   Glucose
   91
   124
   123
   99
   Other labs: PT / PTT / INR:19.4/33.2/1.8, CK / CKMB /
   Troponin-T:71/5/0.24, ALT / AST:21/19, Alk Phos / T Bili:265/0.3,
   Amylase / Lipase:37/16, Differential-Neuts:79.5 %, Lymph:9.6 %,
   Mono:5.4 %, Eos:4.8 %, Albumin:3.9 g/dL, LDH:264 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: dilantin 14.3.
   CSF 0 WBC, 1 RBC.
   crypto negative
   glucose 90, protein 70.
   Assessment and Plan
   Delirium/altered MS:  Unclear what happened.  Most likely scenario may
   be seizure with post-ictal state.
   HTN:  better controled today.
   ESRD on HD:  HD today.
   DM I:  Continue insulin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-10-14**] 10:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes